US04889874
To a solution of 4-cyclohexyl-cyclohexanecarboxylic acid (1.47 g, 7 mmol) in 50 ml of tetrahydrofuran was added oxalyl chloride (0.67 ml, 7.7 mmol) and a few drops of dimethylformamide. After stirring for one hour, the reaction mixture was concentrated to about 1/3 of the original volume and added dropwise into a cold (~0° C.), stirred solution of N-methylhydroxylamine hydrochloride (1.17 g, 14 mmol) in 40 ml of 1N sodium hydroxide. The mixture was stirred for two hours and extracted three times with ethyl acetate. The combined ethyl acetate extracts were washed twice with water, dried with anhydrous sodium sulfate and concentrated. Purification by flash chromatography and crystallization afforded 0.342 g of 4-cyclohexyl-N-hydroxy-N-methylcyclohexanecarboxamide as a white solid (m.p. 89°-90° C.).

reactant | 4-cyclohexyl-cyclohexanecarboxylic acid | 7 mmol, 1.47 g | C1(CCCCC1)C1CCC(CC1)C(=O)O | C13H22O2
reactant | oxalyl chloride | 7.7 mmol, 0.67 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methylhydroxylamine hydrochloride | 14 mmol, 1.17 g | Cl.CNO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | dimethylformamide | a few drops | CN(C=O)C | C3H7NO
solvent | sodium hydroxide | 1N, 40 ml | [OH-].[Na+]
product | 4-cyclohexyl-N-hydroxy-N-methylcyclohexanecarboxamide | 0.342 g | C1(CCCCC1)C1CCC(CC1)C(=O)N(C)O | C14H25NO2
